* Z:\home\martin\Escritorio\2024\githubTC2\TC2\TS5\spice\TS5_NORMALIZADA.asc
R1 Vo Vo1 1
C3 Vo 0 0.430644
R2 N001 Vi 0.5439
R3 N002 N001 0.5439
C1 N002 0 0.5237
C2 Vo1 N001 1
XU1 N002 Vo1 Vo1 opamp Aol=100K GBW=10Meg
V1 Vi 0 AC 1
.inc opamp.sub
.ac dec 1000 0.001 10
.backanno
.end
